* TPS7A3301 Model
***************************************************************************
** This product is designed as an aid for customers of Texas Instruments.**
** No warranties, either expressed or implied, with respect to this third**
** party software (if any) or with respect to its fitness for any        **
** particular purpose is claimed by Texas Instruments or the author. The **
** software (if any) is provided soley on an "as is" basis. The entire   **
** risk as to its quality and performance is with the customer           **
********************************************************************************
* 
* (C) Copyright 2011 Texas Instruments Incorporated  . All rights reserved.
*
* Released by: Analog e-Lab Design Center, Texas Instruments Inc.
* Part: TPS7A3301
* Date: 12/5/2011
* Model Type: TRANSIENT
* Simulator: PSPICE
* EVM Order Number: TPS7A3301EVM-061
* EVM Users Guide: SLVU602
* Datasheet: SBVS169 - DECEMBER 2011
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*********************************************************************************
* source TPS7A3301
*$
.SUBCKT TPS7A3301 IN EN NR_SS GND FB OUT
E_U1_U1_ABM4         U1_U1_N05382 0 VALUE { V(U1_U1_N05348)  
+ * V(OUT)  
+ / (V(FB) - 1e-6)  }
R_U1_U1_R1         GND U1_U1_N05348  1G  
R_U1_U1_R2         GND U1_U1_N05382  1G  
E_U1_U1_ABM5         U1_N222524 0 VALUE { MAX(V(U1_U1_N05382),  
+ MIN(V(IN) + 0.35, 0))   }
E_U1_U1_ABM3         U1_U1_N05348 0 VALUE { MIN(MAX(10*(ABS(V(EN))-1.3), 0), 1)
+   
+ * MAX(MIN(10*(V(IN)+2.9), 0), -1.184)   }
E_U1_E1         U1_VYY GND U1_VXX GND 1
R_U1_R5         U1_VZZ U1_VYY  0.03  
R_U1_R1         U1_VXX IN  10MEG  
X_U1_F1    U1_VZZ OUT IN U1_VYY TPS7A30_U1_F1 
R_U1_R2         U1_N222524 U1_VXX  3.16k  
C_U1_C1         U1_VXX IN  3.2p  
R_U1_R3         NR_SS 0  1  
C_U1_C2         U1_VXX U1_N222524  500p
.ENDS TPS7A3301
*$
.subckt TPS7A30_U1_F1 1 2 3 4  
F_U1_F1         3 4 VF_U1_F1 1
VF_U1_F1         1 2 0V
.ends TPS7A30_U1_F1
*$
